US04452809
Cis-3-(3-chlorophenoxy)-4-hydroxy-1-methyl-1-phenylmethylpyrrolidinium Iodide
A mixture of 15.2 g. (0.05 mole) of cis-4-(3-chlorophenoxy)-1-phenylmethyl-3-pyrrolidinol and 56 g. (0.4 mole) of methyl iodide was heated at reflux for 60 hr. Excess methyl iodide was removed under vacuum. The pasty residue was washed with ether-acetone, leaving 13 g. (59%) of granular tan powder, m.p. 118-25° C.

reactant | cis-4-(3-chlorophenoxy)-1-phenylmethyl-3-pyrrolidinol | 0.05 mole | ClC=1C=C(O[C@@H]2[C@@H](CN(C2)CC2=CC=CC=C2)O)C=CC1 | C17H18ClNO2
reactant | methyl iodide | 0.4 mole | CI | CH3I
product | Cis-3-(3-chlorophenoxy)-4-hydroxy-1-methyl-1-phenylmethylpyrrolidinium Iodide | [I-].ClC=1C=C(O[C@@H]2C[N+](C[C@@H]2O)(CC2=CC=CC=C2)C)C=CC1 | InChI=1S/C18H21ClNO2.HI/c1-20(11-14-6-3-2-4-7-14)12-17(21)18(13-20)22-16-9-5-8-15(19)10-16;/h2-10,17-18,21H,11-13H2,1H3;1H/q+1;/p-1/t17-,18+,20?;/m0./s1
